US07893085B2
3-(4-Bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester
A degassed solution of 3-(nonafluorobutane-1-sulfonyloxy)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester (678 mg, 1.33 mmol), 4bromo -2-fluoroaniline (329 mg, 1.73 mmol), Pd2 dba3 (61 mg, 0.07 mmol), Xantphos (78 mg, 0.14 mmol) and DBU (509 μl, 3.35 mmol) in toluene (3 ml) was subjected to mnicrowave irradiation at 150° C. for 10 minutes. The reaction mixture was cooled to ambient temperature then diluted with ethyl acetate (70 ml). The resultant solution was washed with water (20 ml), dried over sodium sulfate and concentrated in vacuo to give an orange oil. The oil was purified by flash chromatography (Si-SPE, pentane:diethyl ether, gradient 90:10 to 50:50) followed by crystallisation from ethyl acetate:pentane to provide the title compound as a white solid (353 mg, 67%). LCMS (method B): RT=4.08 min, M+H+=395/397.

reactant | 3-(nonafluorobutane-1-sulfonyloxy)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester | 1.33 mmol, 678 mg | C(C)OC(=O)C1=C(C=2C(=CN=CC2)S1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C14H8F9NO5S2
reactant | 4bromo -2-fluoroaniline | 1.73 mmol, 329 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | Xantphos | 0.14 mmol, 78 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | DBU | 3.35 mmol, 509 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd2 dba3 | 0.07 mmol, 61 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-Bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester | 353 mg, 67% | C(C)OC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)Br)F | C16H12BrFN2O2S
